US06884890B2
6-(1-(3-Aminophenyl)-vinyl)-3-styryl-1H-indazole
6-(1-(3-Nitrophenyl)-vinyl)-3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole was converted to 6-(1-(3-aminophenyl)-vinyl)-3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole as described in Example 11, step (iv) (140 mg, 95%): Rf sm 0.59, p 0.46 (ethyl acetate-hexane 4:6); FTIR (thin film) 3460, 3366, 3223, 3084, 3028, 2952, 2894, 2246, 1616, 1601, 1581, 1489, 1474, 1448, 1359.1303, 1249, 1217, 1076, 961, 909, 860, 836, 733, 692 cm−1; 1H NMR (300 MHz, CDCl3) δ 7.96 (d, 1H, J=8.5 Hz), 7.59 (m, 3H), 7.50 (s, 1H), 7.46 (s, 1H), 7.40 (m, 2H), 7.30 (m, 1H), 7.25 (m, 1H), 7.14 (m, 1H), 6.77 (m, 1H), 6.68 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 151.6, 147.7, 144.6, 143.9, 142.8, 142.4, 138.6, 132.8, 130.6, 130.2, 129.3, 128.0, 124.4, 123.6, 121.9, 121.5, 120.2, 116.4, 116.1, 110.8, 79.0, 67.9, 19.2, 0.0; HRMS (FAB) [M+Na]/z Calc'd 490.2291, found 490.2302.

reactant | 6-(1-(3-Nitrophenyl)-vinyl)-3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole | [N+](=O)([O-])C=1C=C(C=CC1)C(=C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C29H31N3O3Si
reactant | 6-(1-(3-aminophenyl)-vinyl)-3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole | NC=1C=C(C=CC1)C(=C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C29H33N3OSi
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 6-(1-(3-Aminophenyl)-vinyl)-3-styryl-1H-indazole | NC=1C=C(C=CC1)C(=C)C1=CC=C2C(=NNC2=C1)C=CC1=CC=CC=C1 | C23H19N3
